US07704995B2
3,4-Dihydro-2H-1,4-benzoxazine-6-ylmethyl)amine: a solution of 3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-carbonitrile (1.3 g ) in anhydrous TBF (20 mL) was slowly added to a stirred and ice -cooled solution of lithium aluminum hydride (30 mL, 1 M solution in THF). With continued cooling water (5 mmol) and sodium hydroxide (5 mL, 20% solution), water (20 mL) and ethyl acetate (30 mL) were added in succession. The organic solution was decanted from the white residue. The residue was washed twice with ether, all the organic solution were combined then dried over anhydrous sodium sulfate. Filtration and concentration followed by drying in vacuo afforded 3,4-dihydro-2H-1,4-benzoxazine-6-ylmethylamine (0.78 g,): 1H NMR (400 MHz; DMSO-D6): 6.52 (d, 1H); 6.49 (s, 1H); 6.37 (d, 1H); 5.6 (br s, NH); 4.05 (t, 2H); 3.4 (m, 2H).

reactant | 3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-carbonitrile | 1.3 g | O=C1COC2=C(N1)C=C(C=C2)C#N | C9H6N2O2
reactant | lithium aluminum hydride | 1 M, 30 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 mmol | O | H2O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-2H-1,4-benzoxazine-6-ylmethylamine | 0.78 g | O1CCNC2=C1C=CC(=C2)CN | C9H12N2O
